US06297375B1
f) Methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine
A solution of 2.24 g (8.3 mmol) 6-morpholin-4-yl-4-o-tolyl-pyridin-3-ylamine in 17 ml trimethyl orthoformate and 3 drops trifluoroacetic acid was heated for 2 h at 130° C. The reaction mixture was evaporated and dried in vacuo for 30 min. The residual oil was dissolved in 5 ml tetrahydrofuran and was added dropwise under ice cooling to 630 mg (16.6 mmol) lithium aluminum hydride in 20 ml tetrahydrofuran. The reaction mixture was stirred for lh at room temperature, cooled to 0° C. again and acidified (pH 1-2) by addition of 28% hydrochloric acid solution. After stirring for 5 min, 28% sodium hydroxide solution was added to reach pH 10. The solution was filtered over celite, evaporated and purified by flash chromatography to give 1.56 g (66%) of the title compound as a white foam.

reactant | 6-morpholin-4-yl-4-o-tolyl-pyridin-3-ylamine | 8.3 mmol, 2.24 g | N1(CCOCC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C16H19N3O
reactant | lithium aluminum hydride | 16.6 mmol, 630 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | trimethyl orthoformate | 17 ml | C(OC)(OC)OC | C4H10O3
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine | 1.56 g, 66% | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1 | C17H21N3O
